US05807883
A mixture of 1.06 g of ethyl 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1H-indol-3-yl]propionate, 1.0 g of 3-phenylpropyl bromide, 1.10 g of potassium carbonate and 16 ml of acetone was refluxed overnight. The solvent was removed by evaporation. The residue was extracted with ethyl acetate, washed with water and dried. After removal of solvent, the residual solid was crystallized from isopropyl ether-hexane to afford 1.25 g of ethyl 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1-(3-phenylpropyl)-1H-indol-3-yl]propionate as a colorless solid. Melting point: 119.5° to 121.5° C., IR (Nujol) (cm-1): 3320, 1730, 1700, 1660, 1615, FAB-MS (m/z): 541 & 539 (MH+).

reactant | ethyl 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1H-indol-3-yl]propionate | 1.06 g | ClC=1C=C(C(=O)NC2(C(NC3=CC=CC=C23)=O)CCC(=O)OCC)C=CC1Cl | C20H18Cl2N2O4
reactant | 3-phenylpropyl bromide | 1.0 g | C1(=CC=CC=C1)CCCBr | C9H11Br
reactant | potassium carbonate | 1.10 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 16 ml | CC(=O)C | C3H6O
product | ethyl 3-[3-(3,4-dichlorobenzoylamino)-2,3-dihydro-2-oxo-1-(3-phenylpropyl)-1H-indol-3-yl]propionate | 1.25 g | ClC=1C=C(C(=O)NC2(C(N(C3=CC=CC=C23)CCCC2=CC=CC=C2)=O)CCC(=O)OCC)C=CC1Cl | C29H28Cl2N2O4
